US08058045B2
5-(5-Amino-4-(piperidin-4-ylmethoxy)pyridin-2-Ylamino)pyrazine-2-carbonitrile (Y-038)
A solution of tert-butyl 4-((5-amino-2-(5-cyanopyrazin-2-ylamino)pyridin-4-yloxy)methyl)piperidine-1-carboxylate (16 mg, 0.038 mmol) in 10 mL dichloromethane (10 mL) was treated over 45 minutes with 2 mL trifluoroacetic acid. After concentration of the solution in vacuo, the required product was isolated by SPE using a MP-TsOH cartridge, eluting with 2N ammonia in methanol. Concentration of the eluent gave the required product as a yellow solid (10 mg).

reactant | tert-butyl 4-((5-amino-2-(5-cyanopyrazin-2-ylamino)pyridin-4-yloxy)methyl)piperidine-1-carboxylate | 0.038 mmol, 16 mg | NC=1C(=CC(=NC1)NC1=NC=C(N=C1)C#N)OCC1CCN(CC1)C(=O)OC(C)(C)C | C21H27N7O3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 5-(5-Amino-4-(piperidin-4-ylmethoxy)pyridin-2-Ylamino)pyrazine-2-carbonitrile | NC=1C(=CC(=NC1)NC=1N=CC(=NC1)C#N)OCC1CCNCC1 | C16H19N7O
